US05733913
6-(2-Methoxy-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine
The title compound was prepared according to Example 1, starting from 2-methoxybenzyl cyanide and 2,4-diamino-5-pyrimidine-carboxaldehyde; mp 304°-306° C. (dec).

reactant | 2-methoxybenzyl cyanide | COC1=C(CC#N)C=CC=C1 | C9H9NO
reactant | 2,4-diamino-5-pyrimidine-carboxaldehyde | NC1=NC=C(C(=N1)N)C=O | C5H6N4O
product | 6-(2-Methoxy-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine | COC1=C(C=CC=C1)C1=CC2=C(N=C(N=C2)N)N=C1N | C14H13N5O
